US04507141
A solution of 2.7 g (0.0703 mol) of sodium boranate in 25 ml of water was added dropwise to a suspension of 33.75 g (0.1 mol) of 1-(4-chlorophenyl)-4,4-dimethyl-1-methylthio-2-(1,2,4-triazol-1-yl)-pentan-3-one and 7.6 g (0.0683 mol) of anhydrous calcium chloride in 200 ml of isopropanol at -5° C. The mixture was then stirred for 15 hours. After having added 20 ml of acetone the mixture was evaporated down in vacuo. The residue was stirred into water and the mixture was repeatedly extracted by shaking with methylene chloride. The methylene chloride phase was dried over sodium sulphate, filtered and evaporated down in vacuo. 32.6 g (96% of theory) of 1-(4-chlorophenyl)-4,4-dimethyl-1-methylthio-2-(1,2,4-triazol-1-yl)-pentan-3-ol, of melting point 58°-60° C., were obtained.

reactant | sodium boranate | 0.0703 mol, 2.7 g | B(=O)[O-].[Na+]
reactant | 1-(4-chlorophenyl)-4,4-dimethyl-1-methylthio-2-(1,2,4-triazol-1-yl)-pentan-3-one | 0.1 mol, 33.75 g | ClC1=CC=C(C=C1)C(C(C(C(C)(C)C)=O)N1N=CN=C1)SC | C16H20ClN3OS
reactant | calcium chloride | 0.0683 mol, 7.6 g | [Cl-].[Ca+2].[Cl-]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-(4-chlorophenyl)-4,4-dimethyl-1-methylthio-2-(1,2,4-triazol-1-yl)-pentan-3-ol | 32.6 g, 96% | ClC1=CC=C(C=C1)C(C(C(C(C)(C)C)O)N1N=CN=C1)SC | C16H22ClN3OS
